US07425568B2
2-(3-Fluorophenyl)indan-5-ol was prepared as described for 2-phenylindan-5-ol in Example 25(a-e) using 5 g of 3-fluorophenylacetic acid. 1H-NMR (400 MHz, d6-DMSO): 9.09 (s, 1H), 7.37-7.29 (m, 1H), 7.14-7.7.09 (m, 2H), 7.02-6.98 (m, 2H), 6.64 (d, 1H, J 1.7 Hz), 6.55 (dd, 1H, J 2.3, 8.1 Hz), 3.63 (k, 1H, J 8.3 Hz), 3.24-3.12 (m, 2H), 2.94-2.79 (m, 2H).

reactant | 2-phenylindan-5-ol | C1(=CC=CC=C1)C1CC2=CC=C(C=C2C1)O | C15H14O
reactant | 3-fluorophenylacetic acid | 5 g | FC=1C=C(C=CC1)CC(=O)O | C8H7FO2
product | 2-(3-Fluorophenyl)indan-5-ol | FC=1C=C(C=CC1)C1CC2=CC=C(C=C2C1)O | C15H13FO
